US04734416
5.1 Grams of 7-(3-chloro-2-hydroxypropoxy)-3,4-dihydrocarbostyril and 8 g of 4-phenylpiperazine are mixed with 50 ml of dimethylformamide and reacted at 50°-60° C. for 5 hours under stirring conditions. The reaction mixture is concentrated under a reduced pressure to dryness and the residue thus obtained is dissolved in 80 ml of chloroform, then the chloroform layer is washed 3 times with 5% of sodium hydrogencarbonate aqueous solution and washed 3 times with water and dried with anhydrous sodium sulfate. Chloroform is removed by distillation under a reduced pressure and the residue thus obtained is purified by a silica gel-chromatography [silica gel: Wako C-200, extracting solvent:chloroform:methanol=30:1 (v/v)]. Then the extracted product is converted into its hydrochloride by using ethanol containing hydrogen chloride and ethanol is removed by distillation under a reduced pressure. The thus obtained residue is recrystallized from water to obtain 5.6 g of 7-[2-hydroxy-3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril.monohydrochloride.1/2 hydrate in the form of colorless crystals with a melting point of 122° C. (decomp.).

reactant | 7-(3-chloro-2-hydroxypropoxy)-3,4-dihydrocarbostyril | ClCC(COC1=CC=C2CCC(NC2=C1)=O)O | C12H14ClNO3
reactant | 4-phenylpiperazine | 8 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-[2-hydroxy-3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril | 5.6 g | OC(COC1=CC=C2CCC(NC2=C1)=O)CN1CCN(CC1)C1=CC=CC=C1 | C22H27N3O3
